US08304419B2
Step A: 1,1-dimethylethyl 5-nitro-1H-benzimidazole-2-carboxylate
Di-t-butyldicarbonate (2.107 g, 9.66 mmol) and N,N-dimethylaminopyridine (1.180 g, 9.66 mmol) were added to a suspension of 5-nitro-1H-benzimidazole-2-carboxylic acid (1.00 g, 4.83 mmol) which was prepared according to literature procedures (Heterocycles 2006, 67, 769) in dichloromethane (20 mL). Vigorous gas evolution was observed. After 2 h, the reaction mixture was filtered. The filtrate was concentrated and the residue was subjected to column chromatography (hexane/EtOAc) to give the title compound (0.149 g) as a white solid. An additional 1 g of material, as a mixture of the desired t-butyl ester and N,N-dimethylaminopyridine was isolated. This material was dissolved in ethyl acetate and washed with 1N aqueous HCl. The organic layer was separated, dried over sodium sulfate and concentrated to give additional title compound (0.359 g, 39% combined). 1H NMR (400 MHz, CDCl3): δ ppm 8.72 (s, 1H), 8.30 (dd, 1H), 7.78 (d, 1H), 1.68 (s, 9H). MS: m/z 262 (M−1).

reactant | Di-t-butyldicarbonate | 9.66 mmol, 2.107 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-nitro-1H-benzimidazole-2-carboxylic acid | 4.83 mmol, 1.00 g | [N+](=O)([O-])C1=CC2=C(NC(=N2)C(=O)O)C=C1 | C8H5N3O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1,1-dimethylethyl 5-nitro-1H-benzimidazole-2-carboxylate | 0.149 g | [N+](=O)([O-])C1=CC2=C(NC(=N2)C(=O)OC(C)(C)C)C=C1 | C12H13N3O4
